US06878712B1
(R)-[4-(4-Fluorobenzoyl)-1-(3,3,3-trifluoro-2-hydroxy-2-methylpropionyl)piperidine]
A solution of (S)-3,3,3-trifluoro-2-trimethylsilyoxy-2-methylpropanoyl chloride (J. Med. Chem., 1999, 42, 2741-2746) (293 mg, 1.2 mmol) in EtOAc (5 ml) was added to a stirred mixture of 4-(4-fluorobenzoyl)piperidine (207 mg, 1.0 mmol) and triethylamine (0.21 ml, 1.5 mmol) in EtOAc (25 ml). The resultant mixture was stirred at ambient temperature for 2 hours, washed with 1 M hydrochloric acid, saturated sodium hydrogen carbonate solution and brine, dried and evaporated. The residue was dissolved in methanol (10 ml), treated with 1 M hydrochloric acid (2 ml) and the mixture stirred at ambient temperature for 1 hour. The methanol was evaporated, the aqueous layer was extracted with EtOAc (2×25 ml), the EtOAc extracts were washed with saturated sodium hydrogen carbonate solution and brine, dried and evaporated. The residue was chromatographed on silica with 10% EtOA/DCM as eluent to give a solid which was recrystallized from EtOAc/hexane to give the title compound as a solid (104 mg, 0.3 mmol). Mp: 78-79° C.; NMR: 1.7 (s, 3H), 1.8-2.0 (m, 4H), 3.2 (dd, 2H), 3.5 (m, 1H), 4.4 (dd, 2H), 5.25 (s, 1H), 7.15 (dd, 2H), 8.0 (dd, 2H); m/z 346.

reactant | (S)-3,3,3-trifluoro-2-trimethylsilyoxy-2-methylpropanoyl chloride | 1.2 mmol, 293 mg | FC([C@](C(=O)Cl)(C)O[Si](C)(C)C)(F)F | C7H12ClF3O2Si
reactant | 4-(4-fluorobenzoyl)piperidine | 1.0 mmol, 207 mg | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | triethylamine | 1.5 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
product | (R)-[4-(4-Fluorobenzoyl)-1-(3,3,3-trifluoro-2-hydroxy-2-methylpropionyl)piperidine] | 0.3 mmol, 104 mg | FC1=CC=C(C(=O)C2CCN(CC2)C([C@@](C(F)(F)F)(C)O)=O)C=C1 | C16H17F4NO3
